US07323460B2
Step 6: {4-Fluoro-2-[(methylamino)carbonyl]phenyl}methanaminium chloride
Hydrogen chloride gas was bubbled through a −78° C. solution of tert-butyl 4-fluoro-2-[(methylamino)carbonyl]benzylcarbamate (615 mg, 2.18 mmol) in ethyl acetate (20 mL) until the solution was saturated. The flask was then allowed to warm to room temperature. The reaction was concentrated in vacud to a volume of about 5 mL and the flask was capped and placed in the freezer overnight. In the morning, the solids that had precipitated were collected by vacuum filtration and washed with cold ethyl acetate to give the desired product as an off-white solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-fluoro-2-[(methylamino)carbonyl]benzylcarbamate | 2.18 mmol, 615 mg | FC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)C(=O)NC | C14H19FN2O3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | {4-Fluoro-2-[(methylamino)carbonyl]phenyl}methanaminium chloride | [Cl-].FC1=CC(=C(C=C1)C[NH3+])C(=O)NC | InChI=1S/C9H11FN2O.ClH/c1-12-9(13)8-4-7(10)3-2-6(8)5-11;/h2-4H,5,11H2,1H3,(H,12,13);1H
